* ==========================================

* NOR_X1 LUT Sweep (Ttran = 1ns)

* ==========================================



.include /CMC/setups/ensc450/HSPICE/cmosp18/rules.inc

.LIB '/CMC/setups/ensc450/HSPICE/cmosp18/log018.l' SS



.option post

.option method=gear

.option reltol=1e-3



.include nor_x1.inc



.param pwr=1.05

.temp 125



Vvdd  vdd  0   dc pwr

Vvdds vdds 0   dc pwr

Vgnd  gnd  0   dc 0

Vgnds gnds 0   dc 0



VB b 0 dc 0



.param Cload=10f

Cload z 0 Cload



* 1ns transition

VA a 0 PWL(0n 0 5n 0 6n pwr 10n pwr 11n 0 15n 0)



Xnor a b z vdd vdds gnd gnds NOR_X1



.tran 10ps 20ns sweep Cload START=10f STOP=20f STEP=10f



.meas tran tpdf TRIG v(a) val='pwr*0.5' RISE=1

+ TARG v(z) val='pwr*0.5' FALL=1



.meas tran tpdr TRIG v(a) val='pwr*0.5' FALL=1

+ TARG v(z) val='pwr*0.5' RISE=1



.meas tran leak_pow avg power FROM=1ns TO=4ns

.meas tran dyn_pow avg power FROM=5ns TO=8ns



.end
